US09120777B2
E) 2-Cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-carbaldehyde
Manganese dioxide (16.6 g) was added to a toluene (80 mL) solution of (2-cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-yl)methanol (5.75 g), and the mixture was stirred at 60 C for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (4.54 g).

reactant | (2-cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-yl)methanol | 5.75 g | C1(CC1)C1=C(C=C(C(=C1)CO)OC(C)C)C1=CC=C(C=C1)F | C19H21FO2
catalyst | Manganese dioxide | 16.6 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-carbaldehyde | 4.54 g | C1(CC1)C1=C(C=C(C(=C1)C=O)OC(C)C)C1=CC=C(C=C1)F | C19H19FO2
